US07910585B2
At room temperature, a solution of 2-bromomethyl-3-fluoro-6-nitro-benzoic acid methyl ester (4.48 g, 15.3 mmol) in THF (100 mL) is treated with 2M solution of methylamine in THF (23 mL, 46 mmol), and the mixture is stirred for 48 h at the room temperature. The reaction mixture is filtrated through a glass filter and the precipitates are collected and washed with ethyl acetate. The filtrate is washed with sat. aqueous solution of NaHCO3 and brine, dried over Na2SO4, and concentrated under reduced pressure to give 4-fluoro-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one (1.6 g, 7.61 mmol 50%) as yellow solids. 1H-NMR (400 MHz, δ, ppm) CDCl3: 3.22 (s, 3H), 4.47 (s, 2H), 7.32 (dd, 1H), 7.84 (dd, 1H).

reactant | 2-bromomethyl-3-fluoro-6-nitro-benzoic acid methyl ester | 15.3 mmol, 4.48 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)CBr)=O | C9H7BrFNO4
reactant | methylamine | CN | CH5N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 46 mmol, 23 mL | C1CCOC1 | C4H8O
product | 4-fluoro-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 7.61 mmol, 1.6 g, 50% | FC1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C9H7FN2O3
